US06916819B2
A solution of N3-ethyl-6-propyl-pyridine-3,4-diamine (82 mg, ˜0.45 mmol, contaminated with ˜10% of N-(4-amino-6-propyl-pyridin-3-yl)-acetamide) in 1,2-dichloroethane (4 mL) at room temperature under N2 is treated with 2.0 M AlMe3 (0.69 mL, 1.37 mmol). The resulting solution is stirred at room temperature for 30 min and then treated with a solution of [2-(6-fluoro-pyridin-2-yl)-imidazol-1-yl]-acetic acid methyl ester (97 mg, 0.41 mmol) in 1,2-dichloroethane via cannula, followed by a 1 mL rinse. The reaction mixture is then stirred at reflux overnight. After cooling, it is treated with MeOH (˜2 mL) and then further diluted with saturated aq NaHCO3 (˜10 mL) and some H2O. The mixture is stirred vigorously for 15 min and then extracted thrice with CHCl3 containing some (˜5%) MeOH. The combined extracts are dried over K2CO3 and concentrated. The crude material is purified by preparative thin layer chromatography. Developing with 15:1 CHCl3-MeOH yields 3-ethyl-2-{[2-(6-fluoropyridin-2-yl)-1H-imidazol-1-yl]methyl}-6-propyl-3H-imidazo[4,5-c]pyridine as an off-white solid. 1H NMR (CDCl3, 300 MHz) δ 8.70 (d, J=0.9 Hz, 1H), 8.17 (dd, J=8.0, 2.6 Hz, 1H), 7.89 (q, J=7.8 Hz, 1H), 7.47 (s, 1H), 7.22 (d, J=0.9 Hz, 1H), 7.18 (d, J=1.5 Hz, 1H), 6.88 (dd, J=8.6, 2.9 Hz, 1H), 6.27 (s, 2H), 4.42 (q, J=7.2 Hz, 2H), 2.86 (m, 2H), 1.78 (sextet, J=7.2 Hz, 2H), 1.30 (t, J=7.2 Hz, 3H), 0.97 (t, J=7.2 Hz, 3H) ppm. Electrospray MS: m/z 365 [M+1].

reactant | N3-ethyl-6-propyl-pyridine-3,4-diamine | ˜0.45 mmol, 82 mg | C(C)NC=1C=NC(=CC1N)CCC | C10H17N3
reactant | AlMe3 | 1.37 mmol, 2.0 M, 0.69 mL | C[Al](C)C
reactant | [2-(6-fluoro-pyridin-2-yl)-imidazol-1-yl]-acetic acid methyl ester | 0.41 mmol, 97 mg | COC(CN1C(=NC=C1)C1=NC(=CC=C1)F)=O | C11H10FN3O2
solvent | 1,2-dichloroethane | 4 mL | ClCCCl | C2H4Cl2
product | 3-ethyl-2-{[2-(6-fluoropyridin-2-yl)-1H-imidazol-1-yl]methyl}-6-propyl-3H-imidazo[4,5-c]pyridine | C(C)N1C(=NC2=C1C=NC(=C2)CCC)CN2C(=NC=C2)C2=NC(=CC=C2)F | C20H21FN6
